* PSpice Model Editor - Version 9.2

*$
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

* Version: SPICE3
*                    anode     cathode
* Reverse direction: node 1 <- node 2

.SUBCKT p6ka24 1 2
DF 1 9 DFMOD
.MODEL DFMOD D(N=0.846663 IS=1E-016 RS=0.28237 EG=1.11 XTI=3
+ CJO=850E-12 VJ=2.25 M=0.33 TT=1E-6)
* Leakage
RL 1 9 19.4E6 RLMOD
.MODEL RLMOD RES (TC1=0.0072 TC2=0 TNOM=25)
* Breakdown
RBD 9 4 0.618
EBD 4 3 10 20 1
DBD 3 1 DBDMOD
.MODEL DBDMOD D(IS=1e-15 N=0.5)
IBVC 0 10 0.001
RBVC 10 0 24000 RBVCMOD
.MODEL RBVCMOD RES (TC1=0.00094 TNOM=25)
DBVC 20 0 DBDMOD
IBVD 0 20 1
L1 9 2 1e-15
.ENDS p6ka24
*$
.SUBCKT 6ka24 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=7.37544e-14 N=1 XTI=1 RS=0.003 T_ABS=25
+ CJO=3e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 2.4e+08
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.113468 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 29700
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.1
.ENDS 6ka24
*$
.SUBCKT p4ka15 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=7.00469e-15 N=1 XTI=1 RS=0.075 T_ABS=25
+ CJO=2.5e-09 TT=1e-08
*    Leakage Current
R 1 2 MDR 1.21e+08
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.377655 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 15000
.MODEL MDRBV RES (TC1=0.00084)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.001
.ENDS p4ka15
*$
.SUBCKT sm5a27 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 21, 99
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=8.1e-16 RS=4.63e-3 N=0.828
+EG=1 XTI=4 T_ABS=25 CJO=1e-11 TT=1e-08
*    Leakage Current
R 1 2 MDR 2.2e+08
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.226938 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 27000
.MODEL MDRBV RES (TC1=0.00125)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.01
.ENDS sm5a27
*$
.SUBCKT sm5s10a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=1.53614e-15 N=1 XTI=1 RS=0.005 T_ABS=25
+ CJO=5e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 1e+07
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.0243509 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 11700
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.005
.ENDS sm5s10a
*$
.SUBCKT sm5s28a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=1.53614e-15 N=1 XTI=1 RS=0.005 T_ABS=25
+ CJO=2e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 2.8e+07
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.159179 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 32700
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.005
.ENDS sm5s28a
*$
.SUBCKT sm6a27 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 21, 99
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=3.15e-13 RS=1.25e-3 N=1
+EG=1 XTI=4 T_ABS=25 CJO=1e-11 TT=1e-08
*    Leakage Current
R 1 2 MDR 7.33333e+07
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.176471 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 27000
.MODEL MDRBV RES (TC1=0.00125)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.01
.ENDS sm6a27
*$
.SUBCKT sm6s10a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=7.37544e-14 N=1 XTI=1 RS=0.005 T_ABS=25
+ CJO=5e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 1e+07
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.0190377 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 11700
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.005
.ENDS sm6s10a
*$
.SUBCKT sm6s28a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=7.37544e-14 N=1 XTI=1 RS=0.005 T_ABS=25
+ CJO=2e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 2.8e+07
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.124475 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 32700
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.005
.ENDS sm6s28a
*$
.SUBCKT sm8a27 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 21, 99
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=2.13e-14 RS=8.9e-4 N=0.898
+EG=1 XTI=3 T_ABS=25 CJO=1e-11 TT=1e-08
*    Leakage Current
R 1 2 MDR 3.66667e+07
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.13752 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 27000
.MODEL MDRBV RES (TC1=0.00125)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.01
.ENDS sm8a27
*$
.SUBCKT sm8s10a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=7.37544e-14 N=1 XTI=1 RS=0.004 T_ABS=25
+ CJO=5e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 1e+07
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.013285 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 11700
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.005
.ENDS sm8s10a
*$
.SUBCKT sm8s11a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on May 18, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=7.37544e-14 N=1 XTI=1 RS=0.004 T_ABS=25
+ CJO=5e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 5.5e+06
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.0139268 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 12800
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.005
.ENDS sm8s11a
*$
.SUBCKT sm8s28a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=7.37544e-14 N=1 XTI=1 RS=0.004 T_ABS=25
+ CJO=2e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 2.8e+07
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.086671 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 32700
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.005
.ENDS sm8s28a
*$
.SUBCKT tpsma15a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=5.54234e-17 N=1 XTI=1 RS=0.07 T_ABS=25
+ CJO=7e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 1.28e+08
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.321314 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 15000
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.001
.ENDS tpsma15a
*$
.SUBCKT tpsma43a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=5.54234e-17 N=1 XTI=1 RS=0.07 T_ABS=25
+ CJO=2.5e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 3.68e+08
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 2.41585 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 43000
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.001
.ENDS tpsma43a
*$
.SUBCKT tpsma6_8a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=5.54234e-17 N=1 XTI=1 RS=0.07 T_ABS=25
+ CJO=1.5e-09 TT=1e-08
*    Leakage Current
R 1 2 MDR 193333
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.0943179 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 6800
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.01
.ENDS tpsma6_8a
*$
*TPSMB11-43 
* created by Andreas Bursian, THOMATRONIK, 83022 Rosenheim
* Tel.: -8031-2175-13 ***** Fax.: -8031/2157-30
* date: 31.07.94 18:27
* Model was made for the PSpice Simulator
.MODEL TPSMB11_43_P D
 + IS=0.00000000000137
 + N=1.172
 + RS=0.6973
 + IKF=0.1444
 + RS=0.6973
 + IKF=0.1444
 + XTI=3
 + EG=1.11
 + CJO=0.0000000005174
 + M=0.3325
 + VJ=0.6603
 + FC=0.5
 + ISR=0.0000000001111
 + NR=2
 + BV=nominal breakdown voltage*
 + IBV=1m
 + TT=0.000000005
*Vbrnom=(Vbrmin+Vbrmax)/2
*$
.SUBCKT tpsmb15a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=1.10847e-16 N=1 XTI=1 RS=0.035 T_ABS=25
+ CJO=7e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 1.28e+08
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.214403 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 15000
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.001
.ENDS tpsmb15a
*$
.SUBCKT tpsmb43a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=1.10847e-16 N=1 XTI=1 RS=0.035 T_ABS=25
+ CJO=2.5e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 3.68e+08
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 1.60207 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 43000
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.001
.ENDS tpsmb43a
*$
.SUBCKT tpsmb6_8a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=1.10847e-16 N=1 XTI=1 RS=0.035 T_ABS=25
+ CJO=1.5e-09 TT=1e-08
*    Leakage Current
R 1 2 MDR 116000
.MODEL MDR RES (TC1=-0.00333333 TC2=0)
*    Breakdown
RZ 2 3 0.0628421 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 6800
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.01
.ENDS tpsmb6_8a
*$
.SUBCKT tpsmc15a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=1.53614e-15 N=1 XTI=1 RS=0.018 T_ABS=25
+ CJO=7e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 1.28e+08
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.0855335 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 15000
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.001
.ENDS tpsmc15a
*$
.SUBCKT tpsmc43a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=1.53614e-15 N=1 XTI=1 RS=0.018 T_ABS=25
+ CJO=2.5e-10 TT=1e-08
*    Leakage Current
R 1 2 MDR 3.68e+08
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.639093 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 43000
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.001
.ENDS tpsmc43a
*$
.SUBCKT tpsmc6_8a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=1.53614e-15 N=1 XTI=1 RS=0.018 T_ABS=25
+ CJO=1.5e-09 TT=1e-08
*    Leakage Current
R 1 2 MDR 58000
.MODEL MDR RES (TC1=-0.005 TC2=0)
*    Breakdown
RZ 2 3 0.02501 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 6800
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.01
.ENDS tpsmc6_8a



*$
